US07598391B2
1-Cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-[5-(3-morpholin-4-yl-propylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 4-(3-chloropropyl)morpholine

reactant | 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@@H]1CC[C@H](CC1)C | C18H26N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 4-(3-chloropropyl)morpholine | ClCCCN1CCOCC1 | C7H14ClNO
product | 1-Cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-[5-(3-morpholin-4-yl-propylsulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCCCN1CCOCC1)[C@@H]1CC[C@H](CC1)C | C24H40N4O2S2
